US08476470B2
(Steps 1 and 2): 4-(Benzylamino)-2-oxobicyclo[2.2.2]octane-1-carboxylic acid ethyl ester
Toluene (100 mL) was added to 1-acetyl-4-oxocyclohexyl carboxylic acid ethyl ester (8.0 g, 38 mmol) and then the resulting mixture was stirred. To the mixture, there were added benzylamine (5.3 mL, 49 mmol) and p-toluenesulfonic acid monohydrate (76 mg, 0.40 mmol). The mixture was refluxed for 8 hours with a Dean-Stark apparatus under the dehydration conditions. After cooled to room temperature, the mixture was concentrated under reduced pressure to give a crude product. The resulting crude product was treated according to the silica gel column chromatography (eluting solution: hexane/ethyl acetate) to thus obtain a mixture of the desired product and an imine derivative thereof. The mixture was dissolved in chloroform (200 mL) and then the resulting solution was treated with a 0.5 mol/L hydrochloric acid solution (100 mL). The suspended organic phase was separated, then treated with a 5% aqueous solution of sodium hydrogen carbonate and then separated. The organic phase was dried over anhydrous magnesium sulfate, followed by the removal of the drying agent through filtration and the subsequent concentration of the resulting filtrate under reduced pressure to thus give the desired product as a white solid. (2.9 g; yield: 26%).

reactant | 1-acetyl-4-oxocyclohexyl carboxylic acid ethyl ester | 38 mmol, 8.0 g | C(C)OC(=O)C1(CCC(CC1)=O)C(C)=O | C11H16O4
reactant | benzylamine | 49 mmol, 5.3 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid monohydrate | 0.40 mmol, 76 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Benzylamino)-2-oxobicyclo[2.2.2]octane-1-carboxylic acid ethyl ester | C(C)OC(=O)C12C(CC(CC1)(CC2)NCC2=CC=CC=C2)=O | C18H23NO3
